US04287341
B. 2-[4-(2-Ethoxyethoxy)piperidin-1-yl]-4-amino-6-chloro-7,8-dimethoxyquinazoline hydrochloride
4-Amino-2,6-dichloro-7,8-dimethoxyquinazoline (4.9 g.), 4-(2-ethoxyethoxy)piperidine (3.2 g.) and triethylamine (10 ml.) in n-butanol (400 ml.) are heated at reflux overnight under an atmosphere of nitrogen. The mixture is then cooled, evaporated in vacuo, and the residue basified (aqueous Na2CO3) and extracted 3 times with chloroform. The combined chloroform extracts are evaporated and the residue chromatographed on neutral alumina to give the crude product which is converted to the hydrochloride salt by treatment with hydrogen chloride in ethanol to afford the title compound.

reactant | 4-Amino-2,6-dichloro-7,8-dimethoxyquinazoline | 4.9 g | NC1=NC(=NC2=C(C(=C(C=C12)Cl)OC)OC)Cl | C10H9Cl2N3O2
reactant | 4-(2-ethoxyethoxy)piperidine | 3.2 g | C(C)OCCOC1CCNCC1 | C9H19NO2
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | n-butanol | 400 ml | C(CCC)O | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(2-Ethoxyethoxy)piperidin-1-yl]-4-amino-6-chloro-7,8-dimethoxyquinazoline hydrochloride | Cl.C(C)OCCOC1CCN(CC1)C1=NC2=C(C(=C(C=C2C(=N1)N)Cl)OC)OC | InChI=1S/C19H27ClN4O4.ClH/c1-4-27-9-10-28-12-5-7-24(8-6-12)19-22-15-13(18(21)23-19)11-14(20)16(25-2)17(15)26-3;/h11-12H,4-10H2,1-3H3,(H2,21,22,23);1H
